US05139697
10 g (53.6 mmol) of trans-4-n-propylcyclohexanecarboxylic acid chloride was dissolved in 30 ml of ethanol, and a small amount of triethylamine was added thereto, followed by 10 hours of stirring at room temperature. The reaction mixture was poured into 100 ml of iced water, acidified with addition of 6N-hydrochloric acid aqueous solution and then extracted with isopropyl ether. The organic layer was washed with water repeatedly until the washing liquid reached neutrality, and then dried with magnesium sulfate. After distilling off the solvent, the product was purified by silica gel column chromatography to obtain 9.9 g of trans-4-n-propylcyclohexanecarboxylic acid-ethyl-ester.

reactant | trans-4-n-propylcyclohexanecarboxylic acid chloride | 53.6 mmol, 10 g | C(CC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C10H17ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | trans-4-n-propylcyclohexanecarboxylic acid-ethyl-ester | 9.9 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)CCC | C12H22O2
